US03965102
1,2,3,4,6,7,8,8a-Octahydro-2-methyl-6-phenyl-7,8-isoquinoline-dicarboxylic acid anhydride, hydrochloride
A solution of 50 g. maleic anhydride and 10 g. 1,2,3,6-tetrahydro-1-methyl-4-styrylpyridine hydrochloride, from example 7, in 100 ml. acetic acid and 100 ml. acetic anhydride previously thoroughly sparged with dry nitrogen is refluxed gently for 3 hours under nitrogen. The reaction mixture is concentrated to 100 ml. volume, and flushed with 300 ml. benzene to remove most of the remaining solvent. The residue is triturated with benzene several times to give 17.5 g. of a crude brown product. This compound is not further purified. It is refrigerated in the dry state for storage.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 1,2,3,6-tetrahydro-1-methyl-4-styrylpyridine hydrochloride | Cl.CN1CCC(=CC1)C=CC1=CC=CC=C1
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2,3,4,6,7,8,8a-Octahydro-2-methyl-6-phenyl-7,8-isoquinoline-dicarboxylic acid anhydride, hydrochloride | Cl.CN1CC2C3C(C(C=C2CC1)C1=CC=CC=C1)C(=O)OC3=O | InChI=1S/C18H19NO3.ClH/c1-19-8-7-12-9-13(11-5-3-2-4-6-11)15-16(14(12)10-19)18(21)22-17(15)20;/h2-6,9,13-16H,7-8,10H2,1H3;1H
